US07001914B2
(B) (R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(4-bromothiophene-2-carboxamide)
Prepared by a method analogous to that described for the preparation of Intermediate 1 from (R)-1-azabicyclo[2.2.2]oct-3-ylamine dihydrochloride and 4-bromothiophene-2-carboxylic acid. The residue from evaporation of the reaction mixture was partitioned between aqueous hydrochloric acid and chloroform. The aqueous layer was then basified with aqueous sodium hydroxide and extracted with chloroform. The organic extracts were dried (MgSO4), filtered, and evaporated and resulting solid was recrystallised from ethyl acetate/hexane to give the title compound as a colourless solid; MS (ES+) 315, 317 (MH+).

reactant | (R)-1-azabicyclo[2.2.2]oct-3-ylamine dihydrochloride | Cl.Cl.N12C[C@@H](C(CC1)CC2)N
reactant | 4-bromothiophene-2-carboxylic acid | BrC=1C=C(SC1)C(=O)O | C5H3BrO2S
product | (R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(4-bromothiophene-2-carboxamide) | N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC=C(C2)Br | C12H15BrN2OS
